US04855507
Following the procedure of Example 1, 200 parts of mono-n-octylphosphine is reacted with 194 parts of glyoxal to give 1,4-di-n-octyl-2,3,5,6-tetrahydroxy-1,4-diphosphorinane, a waxy solid.

reactant | mono-n-octylphosphine | C(CCCCCCC)P | C8H19P
reactant | glyoxal | C(=O)C=O | C2H2O2
product | 1,4-di-n-octyl-2,3,5,6-tetrahydroxy-1,4-diphosphorinane | C(CCCCCCC)P1C(C(P(C(C1O)O)CCCCCCCC)O)O | C20H42O4P2
